US05217969
A solution of chloroacetyl chloride (31.2 g) in chloroform (100 ml) was added dropwise to a mixture of 2-aminophenol (25 g), benzylmethylammonium chloride (52.4 g), sodium bicarbonate (77 g) and chloroform (500 ml) which was cooled in an ice-bath. The mixture was stirred for 1 hour and allowed to warm to ambient temperature. The mixture was heated to 55° C. for 5 hours and then stirred at ambient temperature for 16 hours. The mixture was evaporated and the residue was partitioned between ethyl acetate and an aqueous solution of potassium carbonate. The organic phase was washed with dilute aqueous hydrochloric acid and with water, dried (MgSO4) and evaporated. The residue was washed with a mixture of hexane and diethyl ether to leave 3-oxo-2,3-dihydro-4H-1,4-benzoxazine (11 g, 32%) m.p. 172°-173° C.

reactant | chloroacetyl chloride | 31.2 g | ClCC(=O)Cl | C2H2Cl2O
reactant | 2-aminophenol | 25 g | NC1=C(C=CC=C1)O | C6H7NO
reactant | benzylmethylammonium chloride | 52.4 g | [Cl-].C(C1=CC=CC=C1)C[NH3+]
reactant | sodium bicarbonate | 77 g | C([O-])(O)=O.[Na+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 500 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-oxo-2,3-dihydro-4H-1,4-benzoxazine | 11 g, 32% | O=C1COC2=C(N1)C=CC=C2 | C8H7NO2
